US04131622
A mixture of 500g. (5 moles) 4-methyl-2-pentanone and 184 g. (1 mole) N-phenyl-p-phenylenediamine containing 10 g. copper chromite catalyst was reacted at 150°-160° C and 1000 psi hydrogen pressure until the hydrogen uptake became very slow. After filtering off the catalyst and topping off the filtrate at 100 mm. and 100° C, 208 g. still pot residue of crude product N-(1,3-dimethylbutyl)-N'-phenyl-p-phenylenediamine was obtained, while the excess 4-methyl-2-pentanone, and the water and 4-methyl-2-pentanol byproducts were stripped off; no attempt was made to isolate the Schiff's base III [R1 =C6H5, R2 =CH3, R3 =--CH2CH(CH3)2 ]. The antiozonant product N-(1,3-dimethylbutyl)-N'-phenyl-p-phenylenediamine (IV) [R1 =C6H5, R2 =CH3, R3 =CH2CH(CH3)2 ] was soft and mushy, melting at 43°-50° C; when a sample of this product was kept at 46°-47° C. for one hour, most of the sample liquefied, and when held for 23 hours at 40°-42° C. or for 3.3 hours at 44°-45° C, much of it melted.

reactant | 4-methyl-2-pentanone | 5 moles | CC(CC(C)=O)C | C6H12O
reactant | N-phenyl-p-phenylenediamine | 1 mole, 10 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | hydrogen | [H][H] | H2
catalyst | copper chromite | [Cr](=O)([O-])[O-].[Cu+2]
product | N-(1,3-dimethylbutyl)-N'-phenyl-p-phenylenediamine | CC(CC(C)C)NC1=CC=C(C=C1)NC1=CC=CC=C1 | C18H24N2
